US07820821B2
Pyrrolidone hydrotribromide (1.8 g, 3.6 mmol) was added to a solution of 1-(1H-indazol-6-yl)ethanone (0.5 g, 3 mmol) in THF (10 mL) and the solution was heated at reflux for 2 h. The solution was allowed to cool to room temperature and H2O (30 mL) was added and the mixture was extracted with EtOAc (3×20 mL) and dried (MgSO4). The solvent was removed at reduced pressure to afford 2-bromo-1-(1H-indazol-6-yl)-ethanone, which was used directly in the next step with no purification.

reactant | Pyrrolidone hydrotribromide | 3.6 mmol, 1.8 g | C1CC(=O)NC1.Br[Br-]Br
reactant | 1-(1H-indazol-6-yl)ethanone | 3 mmol, 0.5 g | N1N=CC2=CC=C(C=C12)C(C)=O | C9H8N2O
reactant | H2O | 30 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-bromo-1-(1H-indazol-6-yl)-ethanone | BrCC(=O)C1=CC=C2C=NNC2=C1 | C9H7BrN2O
